US07868197B2
4,5-Dimethyl-4H-cyclopenta[b]thiophene
To a solution of 132.4 g (0.54 mol) of 3-bromo-4,5-dimethyl-4,5-dihydro-6H-cyclopenta[b]thiophen-6-one in 750 ml of THF-methanol (2:1, vol.), 28.6 g (0.75 mol) of NaBH4 was added in small portions while vigorously stirring over 1 h at 5° C. This mixture was stirred overnight at ambient temperature and then added to ca. 1000 cm3 of cold water. The organic layer was separated; the aqueous layer was extracted with 2×300 ml of methyl-tert-butyl ether. The combined extract was dried over K2CO3 and evaporated to dryness. To a hot solution of the residue in 1500 cm3 of toluene, 0.5 g of para-toluenesulfonic acid was added. This mixture was refluxed for 15 min, cooled to room temperature, and passed through a short Silica Gel 60 column (40-63 μm, d 65 mm, 1 150 mm). The column was additionally washed with hexanes to isolate the product. The obtained solution was evaporated to dryness. Fractional distillation gave a colorless oil, bp 101-104° C./2 mm Hg. Yield 92.8 g (75%).

reactant | 3-bromo-4,5-dimethyl-4,5-dihydro-6H-cyclopenta[b]thiophen-6-one | 0.54 mol, 132.4 g | BrC=1C2=C(SC1)C(C(C2C)C)=O | C9H9BrOS
reactant | NaBH4 | 0.75 mol, 28.6 g | [BH4-].[Na+]
reactant | water | ca. 1000 cm3 | O | H2O
solvent | THF methanol | 750 ml | C1CCOC1.CO
product | 4,5-Dimethyl-4H-cyclopenta[b]thiophene | CC1C(=CC=2SC=CC21)C | C9H10S
